US09334278B2
To a stirred solution of 2-bromo-3-chloro-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine-7-carbaldehyde (1.96 g, 5.03 mmol) in a (1:1) mixed solvent system of 1,4-dioxane:water (105 mL), were added sulfamic acid (2.93 g, 30.15 mmol), sodium chlorite (0.591 g, 6.53 mmol) and potassium dihydrogen phosphate (8.20 g, 60.3 mmol). The mixture was stirred overnight at room temperature The resulting mixture was diluted with water (50 mL) and extracted with ethyl acetate (150 mL×3). The combined organic phases were washed with brine, dried and concentrated in vacuo to a yellow solid which was thoroughly washed with hexane to give 2-bromo-3-chloro-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid (1.62 g, 79%) as off-white solid. LC-MS: 406.2 (M−H).

reactant | 2-bromo-3-chloro-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine-7-carbaldehyde | 5.03 mmol, 1.96 g | BrC=1N=C2C(=NC1Cl)N(C=C2C=O)COCC[Si](C)(C)C | C13H17BrClN3O2Si
reactant | sulfamic acid | 30.15 mmol, 2.93 g | S(N)(O)(=O)=O | H3NO3S
reactant | sodium chlorite | 6.53 mmol, 0.591 g | Cl(=O)[O-].[Na+]
reactant | potassium dihydrogen phosphate | 60.3 mmol, 8.20 g | P(=O)(O)(O)[O-].[K+]
solvent | water | 50 mL | O | H2O
solvent | water | 105 mL | O | H2O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 2-bromo-3-chloro-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid | 1.62 g, 79% | BrC=1N=C2C(=NC1Cl)N(C=C2C(=O)O)COCC[Si](C)(C)C | C13H17BrClN3O3Si
